US08357688B2
To a mixture of 106 mg of 1-(4,4-difluorocyclohexyl)-7-[(5-fluoro-2,3-dihydro-1H-indol-1-yl)carbonyl]-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one, 1 mL of methanol, and 1 mL of tetrahydrofuran was added 55 μL of 4 M hydrogen chloride/ethyl acetate, followed by stirring at room temperature for 1 hour. The reaction solution was concentrated under reduced pressure. The obtained residue was triturated with a mixture of ethyl acetate, diethyl ether, and normal hexane to give a powder, and the suspension was stirred for 30 minutes. The solid was collected by filtration and dried under reduced pressure to obtain 97 mg of 1-(4,4-difluorocyclohexyl)-7-[(5-fluoro-2,3-dihydro-1H-indol-1-yl)carbonyl]-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one hydrochloride as a pale yellow solid.

reactant | 1-(4,4-difluorocyclohexyl)-7-[(5-fluoro-2,3-dihydro-1H-indol-1-yl)carbonyl]-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 106 mg | FC1(CCC(CC1)C1=NN=C2N1C1=CC(=C(C=C1NC2=O)C(=O)N2CCC1=CC(=CC=C21)F)C)F | C25H22F3N5O2
reactant | methanol | 1 mL | CO | CH4O
reactant | hydrogen chloride ethyl acetate | 4 M, 55 μL | Cl.C(C)(=O)OCC
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1-(4,4-difluorocyclohexyl)-7-[(5-fluoro-2,3-dihydro-1H-indol-1-yl)carbonyl]-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one hydrochloride | 97 mg | Cl.FC1(CCC(CC1)C1=NN=C2N1C1=CC(=C(C=C1NC2=O)C(=O)N2CCC1=CC(=CC=C21)F)C)F | InChI=1S/C25H22F3N5O2.ClH/c1-13-10-20-18(12-17(13)24(35)32-9-6-15-11-16(26)2-3-19(15)32)29-23(34)22-31-30-21(33(20)22)14-4-7-25(27,28)8-5-14;/h2-3,10-12,14H,4-9H2,1H3,(H,29,34);1H
